US06498159B1
26.9 g of (5S)-5-[(trityloxy)methyl]tetrahydro-2-furanone was dissolved in 200 ml THF, 300 ml solution of 1 M vinylmagnesium bromide in THF was added thereto at room temperature, and it was stirred for 1.5 hr under heating and reflux. After the reaction was completed, saturated aqueous ammonium chloride was added thereto under ice-cooling, extracted with ethyl acetate, and then washed twice with brine. The solvent was removed and the resulting residue was purified by silica gel column chromatography to give 13.0 g of (2S)-1-(trityloxy)-5-vinyl-6-heptene-2,5-diol.

reactant | (5S)-5-[(trityloxy)methyl]tetrahydro-2-furanone | 26.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1CCC(O1)=O | C24H22O3
reactant | vinylmagnesium bromide | 1 M | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | (2S)-1-(trityloxy)-5-vinyl-6-heptene-2,5-diol | 13.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@H](CCC(C=C)(O)C=C)O | C28H30O3
